US06107329
5-Chloro-1H-indole-2-carboxylic acid (1-benzyl-2-oxo-2-piperidin-1-yl-ethyl)-amide
Piperidine hydrochloride (0.34 mmol) and 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid (0.30 mmol) were coupled according to procedure A (0-25° C. reaction temperature). The crude product was chromatographed on silica gel eluted with 20%, 30%, 40%, 50%, 75% and 100% ethyl acetate in hexane giving partial separation. The pure fractions were pooled giving 31 mg (25%) of the title substance: HPLC (60/40) 9.38 minutes (94%); PBMS 410/412 (MH+, 100%);

reactant | Piperidine hydrochloride | 0.34 mmol | Cl.N1CCCCC1
reactant | 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid | 0.30 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)CC1=CC=CC=C1 | C18H15ClN2O3
product | 5-Chloro-1H-indole-2-carboxylic acid (1-benzyl-2-oxo-2-piperidin-1-yl-ethyl)-amide | C(C1=CC=CC=C1)C(C(N1CCCCC1)=O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C23H24ClN3O2
